US04864032
A solution of 3,4-dimethoxyphenylmagnesium bromide (prepared from 10.85 g, 50 mmol of 3,4-dimethoxybromobenzene and 1.34 g, 55 mmol magnesium) in 200 ml tetrahydrofuran (hereinafter THF) was cooled to -75° C. and added to a solution of diethyl azodicarboxylate (8.71 g, 50 mmol) in 250 ml THF at -75° C. under an inert atmosphere. The solution was allowed to warm to 0° C. and acetic acid (3 g, 50 mmol) and H2O (20 ml) were added. The organic solution was dried over MgSO4, filtered and evaporated, providing N,N'-bis(ethoxycarbonyl)-3,4-dimethoxyphenylhydrazine as a red oil (15 g, 96% yield). This material was dissolved in isopropanol (500 ml) and 15 g potassium hydroxide was added. The mixture was refluxed under nitrogen for four hours, cooled, and neutralized with acetic acid (15 ml). The mixture was evaporated, the residue was treated with ether and aqueous sodium hydroxide, and the ether solution was dried over MgSO4, filtered and distilled in vacuo. Veratrole was distilled from the mixture, followed by 3,4-dimethoxyphenylhydrazine, which was crystallized from carbon tetrachloride to provide 1.0 g off-white powder, mp 103°-106° C. (dec).

reactant | 3,4-dimethoxyphenylmagnesium bromide | 50 mmol, 10.85 g | COC=1C=C(C=CC1OC)[Mg]Br
reactant | diethyl azodicarboxylate | 50 mmol, 8.71 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | acetic acid | 50 mmol, 3 g | C(C)(=O)O | C2H4O2
reactant | H2O | 20 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | N,N'-bis(ethoxycarbonyl)-3,4-dimethoxyphenylhydrazine | 15 g, 96% yield | C(C)OC(=O)N(NC(=O)OCC)C1=CC(=C(C=C1)OC)OC | C14H20N2O6
